US07585881B2
Methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amine
A mixture of 1000 mg (4.35 mmol) N-amino-N′,N″-dimethyl-guanidine hydriodide (Henry; Smith; J. Amer. Chem. Soc.; 73; 1951; 1858) and 774 mg (4.35 mmol) isonicotinoyl chloride hydrochloride in pyridine (3 mL) was heated under microwave irradiation for 5 min at 160° C. Aq. sat. K2CO3 was added and the mixture was extracted with CHCl3. The organic phase was dried and concentrated. Recrystallization from EtOH, water and EA gave 216 mg (26%) of the title compound. 1H NMR (DMSO-d6): 2.85 (d, 3 H) 3.45 (s, 3 H) 6.25 (d, 1 H) 7.65 (m, 2 H) 8.67 (m, 2 H).

reactant | N-amino-N′,N″-dimethyl-guanidine hydriodide | 4.35 mmol, 1000 mg | I.NNC(=NC)NC
reactant | isonicotinoyl chloride hydrochloride | 4.35 mmol, 774 mg | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | Methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amine | 216 mg, 26% | CNC1=NN=C(N1C)C1=CC=NC=C1 | C9H11N5
